US06153768
Synthesis of 7-hydroxy-3-(4-hydroxyphenyl)-4-[4-(piperidinoethyloxy)phenyl]-2H-benzopyran
4-Hydroxy-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-4-[4-(piperidinoethyloxy)phenyl]-2,3-dihydro-4H-benzopyran (83 mg, 0.14 mmol) and pyridinium p-toulenesulfonate (214 mg, 1.4 mmol) were dissolved in methanol (6 ml) and then refluxed for 12 hours. The reaction solution was cooled to room temperature and, after adding water, extracted with ethyl acetate. The organic layer thus separated was dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure to remove the organic solvent. The residue was separated by column chromatography (n-hexane:ethyl acetate=1:4) to obtain 23 mg (yield: 37%) of the title compound as a foam.

reactant | 4-Hydroxy-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-4-[4-(piperidinoethyloxy)phenyl]-2,3-dihydro-4H-benzopyran | 0.14 mmol, 83 mg | OC1(C(COC2=C1C=CC(=C2)OCOC)C2=CC=C(C=C2)OCOC)C2=CC=C(C=C2)OCCN2CCCCC2 | C32H39NO7
reactant | pyridinium | 1.4 mmol, 214 mg | [NH+]1=CC=CC=C1
reactant | water | O | H2O
solvent | methanol | 6 ml | CO | CH4O
product | 7-hydroxy-3-(4-hydroxyphenyl)-4-[4-(piperidinoethyloxy)phenyl]-2H-benzopyran | 23 mg, yield: 37% | OC1=CC2=C(C(=C(CO2)C2=CC=C(C=C2)O)C2=CC=C(C=C2)OCCN2CCCCC2)C=C1 | C28H29NO4
